US04379167
4-Chloro-1-(3-trifluoromethylphenoxy)-2-butanol
To a mixture of 0.5 mole (75 g.) of m-trifluoromethylphenol, 1 mole (56 g.) of potassium hydroxide, 100 ml. of water and 400 ml. of isopropanol was added 0.6 mole (84 g.) of 1,4-dichloro-2-butanol with stirring at temperature below 55° C. The resulting reaction mixture was heated at 65° C. for 20 hr., mixed with 2 liters of water, and extracted with 400 ml. of isopropyl ether. The ether extract was washed with 0.5 N sodium hydroxide and then with water, dried over sodium sulfate and distilled under reduced pressure. The distillate which was collected at 120°-124° C./0.01 mm. solidified at room temperature and melted at 50°-52° C.

reactant | m-trifluoromethylphenol | 0.5 mole, 75 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | potassium hydroxide | 1 mole, 56 g | [OH-].[K+]
reactant | 1,4-dichloro-2-butanol | 0.6 mole, 84 g | ClCC(CCCl)O | C4H8Cl2O
solvent | water | 2 liters | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-Chloro-1-(3-trifluoromethylphenoxy)-2-butanol | ClCCC(COC1=CC(=CC=C1)C(F)(F)F)O | C11H12ClF3O2
